US09085555B2
[3-(2-Methoxy-acetyl)-indol-1-yl]-acetic acid
was prepared from 1H-indole in a similar manner as described in Scheme A13 (in step A, 2-methoxyacetyl chloride was used instead of acetyl chloride) for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. Brown solid. MS: 248.0 [M+H]+; tR (HPLC conditions c): 3.42 min.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2-methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | [3-(2-Methoxy-acetyl)-indol-1-yl]-acetic acid | COCC(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C13H13NO4
